US09382237B2
5-amino-3-((4-isopropylphenyl)amino)-1H-pyrazole-4-carboxamide (850 mg) was suspended in 15 mL of ethanol and 4-hydroxybenzaldehyde (601 mg, 1.5 eq.) and piperidine (0.50 eq, 168 μL) was added. Stirred the reaction at reflux until starting material was absent and confirmed by HPLC. After reaction was complete (18 hrs) it was brought to room temperature and filtered to obtain 5-((4-hydroxybenzylidene)amino)-3-((4-isopropylphenyl)amino)-1H-pyrazole-4-carboxamide as a yellow to orange powder. The product was washed with ethanol to remove any excess 4-hydroxybenzaldehyde. Product was allowed to dry under vacuum for 1 hr (1.15 g, 97% yield).

reactant | 5-amino-3-((4-isopropylphenyl)amino)-1H-pyrazole-4-carboxamide | 850 mg | NC1=C(C(=NN1)NC1=CC=C(C=C1)C(C)C)C(=O)N | C13H17N5O
reactant | 4-hydroxybenzaldehyde | 601 mg, 1.5 eq. | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | piperidine | 168 μL, 0.50 eq | N1CCCCC1 | C5H11N
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 5-((4-hydroxybenzylidene)amino)-3-((4-isopropylphenyl)amino)-1H-pyrazole-4-carboxamide | 97% yield | OC1=CC=C(C=NC2=C(C(=NN2)NC2=CC=C(C=C2)C(C)C)C(=O)N)C=C1 | C20H21N5O2
